US08466155B2
a) 4-[4-((1R,2R)-2-amino-cyclopentyloxy)-5-trifluoromethyl-pyrimidin-2-ylamino]-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide
(R,R)-2-aminocyclopentanol×HCl (155 mg) is added to a suspension of NaH (135.2 mg) in dioxane (0.75 mL) and stirred for 30 min at RT. Then 4-(4-chloro-5-trifluoromethyl-pyrimidin-2-ylamino)-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide (250 mg) is added. After 18 h, H2O (50 mL) is added. The precipitate formed is filtered off, washed with H2O, dissolved in CH2Cl2 and extracted with aqueous KHSO4 solution (10%). The aqueous phase is made basic again with K2CO3 and extracted with CH2Cl2. The organic phase is dried on magnesium sulphate, filtered to remove the desiccant and the solvent is eliminated in vacuo.

reactant | (R,R)-2-aminocyclopentanol | N[C@H]1[C@@H](CCC1)O | C5H11NO
reactant | HCl | 155 mg | Cl | ClH
reactant | NaH | 135.2 mg | [H-].[Na+]
reactant | 4-(4-chloro-5-trifluoromethyl-pyrimidin-2-ylamino)-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide | 250 mg | ClC1=NC(=NC=C1C(F)(F)F)NC1=C(C=C(C(=O)NC2CCN(CC2)C)C=C1)OC | C19H21ClF3N5O2
solvent | dioxane | 0.75 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 50 mL | O | H2O
product | 4-[4-((1R,2R)-2-amino-cyclopentyloxy)-5-trifluoromethyl-pyrimidin-2-ylamino]-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide | N[C@H]1[C@@H](CCC1)OC1=NC(=NC=C1C(F)(F)F)NC1=C(C=C(C(=O)NC2CCN(CC2)C)C=C1)OC | C24H31F3N6O3
